US07524852B2
Synthesis of 2-(3-pyrrolidin-1-ylpropyl)morpholine hydrochloride for use in the syntheses of Compounds 20-1, 20-5 and 20-6
4-Benzyl-2-(3-pyrrolidin-1-yl-propyl)morpholine (180 mg, 0.62 mmol) prepared according to Process Step 1 was dissolved in 1,2-dichloroethane (5 mL), and the solution was mixed with triethylamine (0.086 mL, 0.62 mmol) and 1-chloroethyl chloroformate (0.20 mL, 1.87 mmol), followed by stirring under reflux for three hours. The reaction mixture was cooled and was mixed with 1,2-dichloroethane (50 mL) and water (50 mL), followed by separation. The organic layer was washed with brine (50 mL), was dried over anhydrous magnesium sulfate, and the solvent was distilled off under reduced pressure. The residue was dissolved in methanol (5 mL), followed by stirring under reflux for one hour. After distilling off the solvent under reduced pressure, diethyl ether (5 mL) was added for crystallization, and the precipitated crystals were collected by filtration. The crystals were dried under reduced pressure and thereby yielded 2-(3-pyrrolidin-1-ylpropyl)morpholine hydrochloride (135 mg, in a yield of 93%).

reactant | 4-Benzyl-2-(3-pyrrolidin-1-yl-propyl)morpholine | 0.62 mmol, 180 mg | C(C1=CC=CC=C1)N1CC(OCC1)CCCN1CCCC1 | C18H28N2O
reactant | triethylamine | 0.62 mmol, 0.086 mL | C(C)N(CC)CC | C6H15N
reactant | 1-chloroethyl chloroformate | 1.87 mmol, 0.20 mL | ClC(=O)OC(C)Cl | C3H4Cl2O2
reactant | water | 50 mL | O | H2O
solvent | 1,2-dichloroethane | 5 mL | ClCCCl | C2H4Cl2
solvent | 1,2-dichloroethane | 50 mL | ClCCCl | C2H4Cl2
product | 2-(3-pyrrolidin-1-ylpropyl)morpholine hydrochloride | yield of 93% | Cl.N1(CCCC1)CCCC1CNCCO1 | InChI=1S/C11H22N2O.ClH/c1-2-7-13(6-1)8-3-4-11-10-12-5-9-14-11;/h11-12H,1-10H2;1H
